US07714126B2
A mixture of 2-phenyl-5-(trifluoromethyl)-oxazole-4-carboxylic acid (454 mg, 1.77 mmol), CH2Cl2 (5 mL), and a catalytic amount of DMF was stirred under Ar, cooled in an ice bath, and oxalyl chloride (308 μL, 3.53 mmol) was added dropwise into the mixture over 5 min. The mixture was immediately allowed to warm to room temperature and after 1.5 hr the reaction was concentrated to dryness. Dichloromethane was added and the solution was evaporated to dryness again. The white-yellow solid was re-dissolved in 5 mL of CH2Cl2 and added dropwise, under Ar, into a 0° C. solution of cyclopentyl-pyridine-2,5-diamine (448 mg, 2.53 mmol), a catalytic amount of DMAP and triethylamine (602 μL, 4.33 mmol) in 5 mL of CH2Cl2. The reaction was allowed to warm to room temperature overnight then concentrated and the residue was supported onto silica gel, and purified by flash chromatography using the Analogix system with a 40 g Redisep silica gel column with increasing concentrations of EtOAc in hexane (40 mL/min, equilibrate with 0%, 0-5 min: 0%, 5-25 min: 0 to 30%, 25-40 min: 30%). The product was triturated with hexanes six times and a 10% ether hexane four times, 20 mL total, to afford the product, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-cyclopentylamino-pyridin-3-yl)-amide, as an off white solid (315 mg, 50% yield). LCMS for C21H19F3N4O2 calcd. (m/e) 416, observed 417 (M+H).

reactant | 2-phenyl-5-(trifluoromethyl)-oxazole-4-carboxylic acid | 1.77 mmol, 454 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | oxalyl chloride | 3.53 mmol, 308 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | cyclopentyl-pyridine-2,5-diamine | 2.53 mmol, 448 mg | C1(CCCC1)C=1C(=NC=C(C1)N)N | C10H15N3
reactant | triethylamine | 4.33 mmol, 602 μL | C(C)N(CC)CC | C6H15N
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-cyclopentylamino-pyridin-3-yl)-amide | C1(CCCC1)NC1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C21H19F3N4O2
